US08404709B2
3.32 g (15.43 mmol) of 4-formyl-3-(trifluoromethoxy)benzonitrile, 1.55 g (15.43 mmol) of 2,4-pentanedione, 1.39 g of acetic acid (23.15 mmol) and 262 mg (3.09 mmol) of piperidine are dissolved in 150 ml of dichloromethane and heated under reflux with an inverse water trap overnight. After complete conversion has been detected by a TLC check, the mixture is diluted with 100 ml of dichloromethane and washed with water and saturated sodium chloride solution. The solvent is removed in a rotary evaporator. 4.56 g (99% of theory) of crude 4-(2-acetyl-3-oxobut-1-en-1-yl)-3-(trifluoromethoxy)benzonitrile are obtained and are reacted directly without further purification.

reactant | 4-formyl-3-(trifluoromethoxy)benzonitrile | 15.43 mmol, 3.32 g | C(=O)C1=C(C=C(C#N)C=C1)OC(F)(F)F | C9H4F3NO2
reactant | 2,4-pentanedione | 15.43 mmol, 1.55 g | CC(CC(C)=O)=O | C5H8O2
reactant | acetic acid | 23.15 mmol, 1.39 g | C(C)(=O)O | C2H4O2
reactant | piperidine | 3.09 mmol, 262 mg | N1CCCCC1 | C5H11N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-(2-acetyl-3-oxobut-1-en-1-yl)-3-(trifluoromethoxy)benzonitrile | 4.56 g, 99% | C(C)(=O)C(=CC1=C(C=C(C#N)C=C1)OC(F)(F)F)C(C)=O | C14H10F3NO3
